US05602128
4-[4-(2-Methoxy-phenyl)-piperazin-1-yl]-N-(2-morpholin-4-yl-ethyl)-2phenyl-butyramide
A mixture of 4-[4-(2-methoxyphenyl)piperazin-l-yl]-2-phenylbutanoic acid (3.544 g, 10 mmole), triethylamine (2.024 g, 20 mmole), and N,N-bis(2-oxo-3oxazolidinyl)phosphoramidic chloride (2.545 g. 10 mmole) was stirred in methylene chloride (80 mL) under exclusion of moisture at ambient temperature for 30 minutes, after which 4-(2-aminoethyl)morpholine (1.302 g, 10 mmole) was added. The reaction mixture was stirred at room temperature for 14 hours, washed with water (100 ml), dried over magnesium sulfate, filtered and evaporated to dryness in vacuo. Chromatography on silica gel with methanol/chloroform as eluant, followed by crystallization from ethanol/diethyl ether with addition of ethanolic HCl gave 0.6 g of the title compound as the dihydrochloride, 2.5 hydrate, 0.2 CHCl3 solvate, m.p. 60°-5° C.

reactant | 4-[4-(2-methoxyphenyl)piperazin-l-yl]-2-phenylbutanoic acid | 10 mmole, 3.544 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C(=O)O)C1=CC=CC=C1 | C21H26N2O3
reactant | triethylamine | 20 mmole, 2.024 g | C(C)N(CC)CC | C6H15N
reactant | N,N-bis(2-oxo-3oxazolidinyl)phosphoramidic chloride | 10 mmole, 2.545 g | O=C1OCCN1N(P(=O)(Cl)Cl)N1C(OCC1)=O | C6H8Cl2N3O5P
reactant | 4-(2-aminoethyl)morpholine | 10 mmole, 1.302 g | NCCN1CCOCC1 | C6H14N2O
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(2-Methoxy-phenyl)-piperazin-1-yl]-N-(2-morpholin-4-yl-ethyl)-2phenyl-butyramide | 0.6 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C(=O)NCCN1CCOCC1)C1=CC=CC=C1 | C27H38N4O3
